Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-5.63034958339
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:5]([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3][H:4],5.37056062
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]=[C:9]([H:10])[H:11],2.54014642081
[C:7]([H:8])[H:9].[H:1][C:2]#[C:3][O:4][C:5]([H:6])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][O:4][C@:5]([H:6])([C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-5.11513019018
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8].[O:9][H:10]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10],-6.412842893990001
[H:1][O:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[H:9].[H:1][O:2][C:3]([H:4])[C:5](=[O:6])[C:10]([H:11])([H:12])[H:13],3.71968098882
[C:7]([H:8])([H:9])[H:10].[H:1][C:2]=[C:3]([H:4])[C:5](=[O:6])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]/[C:3]([H:4])=[C:5](\[O:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-0.79278026058
[H:1][C:2]#[C:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9]>>[C:4]([H:5])#[C:6].[H:1][C:2]#[C:3][C:7]([H:8])[H:9],5.313256099019999
[H:1][C:2]([H:3])=[C:4]([H:5])[C@:7]1([H:8])[C:9][O:10][C:11]1([H:12])[H:13].[H:6]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]1([H:8])[C:9][O:10][C:11]1([H:12])[H:13],-1.7713818886099997
[C:3]#[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2]>>[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10],-8.15596648771
[C:1]#[C:2]/[C:3]([O:4][H:5])=[C:6](\[H:7])[O:8][H:9]>>[C:1]#[C:2].[C:3](\[O:4][H:5])=[C:6](\[H:7])[O:8][H:9],6.69859198661
[H:1][C:2]([H:3])([H:4])[C:5]1[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[C:13]1([H:14])[H:15]>>[H:1][C:2]([H:3])([H:4])[C:6][C:9]([C:10]([H:11])([H:12])[C:13]=[C:5]([H:7])[H:8])([H:14])[H:15],1.52857776069
[O:1][C:2](=[O:3])[C:4]#[C:5][H:6]>>[C:4]#[C:5][H:6].[O:1]=[C:2]=[O:3],0.840634892201
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11][C:12]([H:13])([H:14])[H:15]>>[H:1]/[C:2]([C:3]([H:4])([H:5])[H:6])=[C:7](/[H:8])[O:10][C:11][C:12]([H:13])([H:14])[H:15].[H:9],1.74873776504
[H:1][C:2]=[C:3](/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:4]([H:5])#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3][C:11]([H:12])([H:13])[H:14],-1.11720364354
[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2][O:3][C:4]=[C:5]([H:6])[H:7]>>[H:1][C:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.66577938832
[H:1][C:2]([H:3])=[C:4]([O:5][C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10],4.79144786603
[C:3]([H:4])([H:5])=[C:6]([H:7])[O:8][C:9]=[C:10]([H:11])[H:12].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[O:8][C:9]=[C:10]([H:11])[H:12],-3.01980343103
[C:1]#[C:2][C:3]#[C:4][H:5]>>[C:1]#[C:2].[C:3]#[C:4][H:5],6.54089767592
[O:1]=[C:2][H:3]>>[C:2][H:3].[O:1],9.482817894010001
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2]/[C:3]([H:4])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[O:5][H:6],2.9416194205799995
[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-1.30176548357
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1].[O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18],4.6652338339
[H:1][O:2][C:3]1=[C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]1.[H:5]>>[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]1,-4.6065870147000005
[O:1]=[C:2]=[C:3]([H:4])[H:5].[O:6]=[C:7]=[C:8]([H:9])[H:10]>>[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],2.86714028449
[H:1][O:2]/[C:3]=[C:4](/[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[C:9]([H:10])([H:11])[O:12][H:13].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8],1.55288334301
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20]>>[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20].[H:1][C:2]([H:3])[H:4],4.02133298639
[H:1][C:2][C:14]([C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])([H:15])[H:16]>>[H:1][C:2]1=[C:3]([C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]1([H:15])[H:16],-5.774592299999999
